US08236826B2
Production of ethyl 3-{4-[5-(3,4-dichlorobenzoylamino)-pyridin-2-yloxy]-3-ethoxyphenyl}propionate
To a solution of ethyl 3-[3-ethoxy-4-(5-nitropyridin-2-yloxy)phenyl]propionate (0.82 g, 2.3 mmol) in ethanol (40 mL) was added 10% palladium-carbon (0.15 g) under a nitrogen atmosphere, and the resulting solution was stirred under a hydrogen atmosphere at atmospheric pressure for 1 hour at room temperature. The palladium-carbon was removed by filtration, and the filtrate was concentrated. The obtained filtrate (0.58 g) was dissolved in dichloromethane (30 mL), and to the resulting solution were added pyridine (0.17 mL, 2.1 mmol) and 3,4-dichlorobenzoyl chloride (0.39 g, 1.84 mmol) under ice cooling. The resulting solution was stirred under ice cooling for 1 hour, and then stirred for 12 hours at room temperature. The reaction solution was made acidic by adding 10% hydrochloric acid, and extracted with dichloromethane. The dichloromethane layer was washed with a saturated sodium bicarbonate solution, dried over anhydrous magnesium sulfate, and evaporated, to thereby yield 0.94 g of the title compound.

reactant | ethyl 3-[3-ethoxy-4-(5-nitropyridin-2-yloxy)phenyl]propionate | 2.3 mmol, 0.82 g | C(C)OC=1C=C(C=CC1OC1=NC=C(C=C1)[N+](=O)[O-])CCC(=O)OCC | C18H20N2O6
reactant | pyridine | 2.1 mmol, 0.17 mL | N1=CC=CC=C1 | C5H5N
reactant | 3,4-dichlorobenzoyl chloride | 1.84 mmol, 0.39 g | ClC=1C=C(C(=O)Cl)C=CC1Cl | C7H3Cl3O
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 40 mL | C(C)O | C2H6O
catalyst | palladium-carbon | 0.15 g | [C].[Pd]
product | ethyl 3-{4-[5-(3,4-dichlorobenzoylamino)-pyridin-2-yloxy]-3-ethoxyphenyl}propionate | ClC=1C=C(C(=O)NC=2C=CC(=NC2)OC2=C(C=C(C=C2)CCC(=O)OCC)OCC)C=CC1Cl | C25H24Cl2N2O5
